US05712267
32(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-[(3S)-3-(imidazol-1-yl)pyrrolidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
1.09 g of N,N'-carbonyldiimidazole were added to a solution of 2.5 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid in 25 ml of dry acetonitrile, and the resulting mixture stirred at room temperature for 30 minutes. A solution of 850 mg of (3S)-3-(imidazol-1-yl)pyrrolidine in 5 ml of dry acetonitrile was then added, and the mixture was stirred at room temperature for 2 hours and then at 40° C. for a further 4 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the resulting residue was purified by reverse phase column chromatography through 200 ml of Cosmo Sil 75C18 -PREP (a trade mark for a product of Nacalai Tesque), using a gradient elution method, with mixtures of acetonitrile and water ranging from 50:50 to 55:45 by volume as the eluent. Those fractions containing the title compound were combined and concentrated by evaporation under reduced pressure, to give 2.54 g of the title compound, as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 2.5 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | (3S)-3-(imidazol-1-yl)pyrrolidine | 850 mg | N1(C=NC=C1)[C@@H]1CNCC1 | C7H11N3
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-[(3S)-3-(imidazol-1-yl)pyrrolidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.54 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C[C@H](CC2)N2C=NC=C2)C=C1 | C28H31N5O6S
